US04137232
10-Hydroxy-N,5,5-trimethyl-8-isopropyl-1,2,3,4-tetrahydro5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide (XV)
The above-titled compound was prepared by reacting 10-hydroxy-8-isopropyl-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine with 2-chloro-N-methylacetamide according to the method of Example 1; m.p. 178-190°.

reactant | 10-hydroxy-8-isopropyl-5,5-dimethyl-1,2,3,4-tetrahydro-5H-[1]benzopyrano[4,3-c]pyridine | OC1=CC(=CC2=C1C=1CNCCC1C(O2)(C)C)C(C)C | C17H23NO2
reactant | 2-chloro-N-methylacetamide | ClCC(=O)NC | C3H6ClNO
product | 10-Hydroxy-N,5,5-trimethyl-8-isopropyl-1,2,3,4-tetrahydro5H-[1]benzopyrano[4,3-c]pyridine-2-acetamide | OC1=CC(=CC2=C1C=1CN(CCC1C(O2)(C)C)CC(=O)NC)C(C)C | C20H28N2O3
